US04263291
To dimethylformamide (0.2 g) was added dropwise phosphorus oxychloride (0.4 g) under stirring and ice-cooling, and the mixture was stirred for 30 minutes at 40° C. and then suspended in ethyl acetate (10 ml). To the suspension was added 2-methoxyimino-2-(4-thiazolyl)acetic acid (syn isomer) (0.4 g) under stirring and ice-cooling and then stirred for 30 minutes under ice-cooling. Thus obtained solution was added to a solution, which was prepared by stirring a mixture of 7-amino-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (0.76 L g) and trimethylsilylacetamide (2.3 g) in ethyl acetate (20 ml), under cooling to -25° C. The mixture was stirred for 1 hour at -20° C. to -10° C., and a saturated aqueous solution of sodium chloride (100 ml) was added thereto. Thus obtained mixture was adjusted to pH 7.5 with 20% aqueous solution of sodium carbonate, and the aqueous layer was separated. To the aqueous layer was added ethyl acetate, and adjusted to pH 2 with 10% hydrochloric acid, and then extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then evaporated. The residue was pulverized in diethyl ether, collected by filtration and then dried to give 7-[2-methoxyimino-2-(4-thiazolyl)-acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.01 g).

reactant | phosphorus oxychloride | 0.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-methoxyimino-2-(4-thiazolyl)acetic acid | 0.4 g | CON=C(C(=O)O)C=1N=CSC1 | C6H6N2O3S
reactant | 7-amino-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.76 L | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O | C12H14N6O3S2
reactant | trimethylsilylacetamide | 2.3 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 0.2 g | CN(C=O)C | C3H7NO
product | 7-[2-methoxyimino-2-(4-thiazolyl)-acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.01 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)C=1N=CSC1 | C18H18N8O5S3
